US03985898
1-(2-Indanyl)thiourea
1-Benzoyl-3-(2-indanyl)thiourea (0.931 g.) and sodium hydroxide (0.500 g.) were refluxed in water (6 ml.) for 10 minutes. The mixture was cooled, extracted into chloroform and the chloroform extracts washed with water, dried (MgSO4) and evaporated to give a white solid. Recrystallisation from ethanol/water afforded the title compound as platelets (0.647 g.), m.p. 155.0° C.

reactant | 1-Benzoyl-3-(2-indanyl)thiourea | 0.931 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1CC2=CC=CC=C2C1 | C17H16N2OS
reactant | sodium hydroxide | 0.500 g | [OH-].[Na+]
solvent | water | 6 ml | O | H2O
product | 1-(2-Indanyl)thiourea | C1C(CC2=CC=CC=C12)NC(=S)N | C10H12N2S
